US08623911B2
A solution of 3,3-dimethyl-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol (0.82 g, 4.7 mmol) in nitrobenzene (2.5 mL) was added dropwise to fuming nitric acid (10 mL) maintained at −45° C. The reaction was stirred for 45 minutes at this temperature, and then poured onto wet ice (400 mL). This mixture was allowed to stand for 90 minutes, gradually warming to room temperature. The resultant aqueous suspension was extracted with dichloromethane (3×50 mL). The combined organic portions were washed with water (2×50 mL) until the aqueous portion showed a pH of 7. The dichloromethane solution was then dried over sodium sulfate and concentrated to dryness. The resulting oil was triturated with heptane to produce 3,3-Dimethyl-7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.25 (s, 6H) 3.02 (s, 2H) 7.47 (d, J=8.4 Hz, 1H) 8.25 (dd, J=8.3, 2.6 Hz, 1H) 8.47 (d, J=2.5 Hz, 1H) 8.85 (s, 1H). Amount obtained: 468 mg, 45% yield.

reactant | 3,3-dimethyl-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 4.7 mmol, 0.82 g | CC1(CC2=C(B(O1)O)C=CC=C2)C | C10H13BO2
reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
solvent | nitrobenzene | 2.5 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3,3-Dimethyl-7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 45% yield | CC1(CC2=C(B(O1)O)C=C(C=C2)[N+](=O)[O-])C | C10H12BNO4
